US04999418
To a solution of 1-[(3-hydroxy-2,2-dimethylpropyl)amino]anthraquinone (88.0 g, 0.28 mol) in pyridine (400 mL) is added bromine (48.0 g, 0.30 mol) with vigorous agitation, allowing the temperature to rise to about 40° C. The reaction is completed by heating at 90 to 95° C. for 6 hours and then allowed to cool. Methanol (200 mL) is added, stirring continued for about 2 hours at room temperature and the product is then drowned into water with thorough stirring. The solids are collected by filtration, washed with water and dried in air to give 101.3 g of 4-bromo-l-[(3-hydroxy-2,2-dimethyl-propyl) amino]anthraquinone. The identity of the product is confirmed by mass spectrometry analysis.

reactant | 1-[(3-hydroxy-2,2-dimethylpropyl)amino]anthraquinone | 0.28 mol, 88.0 g | OCC(CNC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O)(C)C | C19H19NO3
reactant | bromine | 0.30 mol, 48.0 g | BrBr | Br2
reactant | Methanol | 200 mL | CO | CH4O
reactant | water | O | H2O
solvent | pyridine | 400 mL | N1=CC=CC=C1 | C5H5N
product | 4-bromo-l-[(3-hydroxy-2,2-dimethyl-propyl) amino]anthraquinone | 101.3 g | BrC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NCC(CO)(C)C | C19H18BrNO3
